US07196084B2
30.1) N-[2-(dimethylamino)phenyl]-5-(4-nitrophenyl)pentanamide:
The experimental protocol used is the same as that described for intermediate 5.1), N,N-dimethyl-1,2-benzenediamine replacing 4-(N-methylpiperazinyl)aniline and 5-(4-nitropheny)pentanoic acid replacing 4-(4-nitrophenyl)butanoic acid.

reactant | N,N-dimethyl-1,2-benzenediamine | CN(C=1C(=CC=CC1)N)C | C8H12N2
reactant | 5-(4-nitropheny)pentanoic acid | [N+](=O)([O-])C1=CC=C(C=C1)CCCCC(=O)O | C11H13NO4
product | N-[2-(dimethylamino)phenyl]-5-(4-nitrophenyl)pentanamide | CN(C1=C(C=CC=C1)NC(CCCCC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C19H23N3O3
